US06984653B2
Production of N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]methanesulfonamide
Triethylamine (109 μl) and methanesulfonyl chloride (36.4 μl) were added to a solution of 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine (200 mg) in THF (4 ml) at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex; eluent; ethyl acetate) and recrystallized from ethyl acetate-hexane to give the titled compound (126 mg) as colorless needle crystals.

reactant | Triethylamine | 109 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 36.4 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine | 200 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCN)(F)F | C28H29F3N4O2
reactant | water | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]methanesulfonamide | 126 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCNS(=O)(=O)C)(F)F | C29H31F3N4O4S
